data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2281,2528,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[n+:28]1[CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:21]1([c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[C:19](=[O:20])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[N:28]1[CH3:29],water,298.15,33.63251541590863,4.142017233340537
206,224,[CH3:11][N:12]=[NH+:13][NH-:14].[F:1][C:2]1([Br:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[N:12]([CH3:11])[NH:13][NH:14]2,water,298.15,23.32441704376213,-32.94364526424643
3171,3579,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[N+:12]#[C:13][C:14]([CH3:15])=[O:16]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]#[N:11])[N:12]=[C:13]1[C:14]([CH3:15])=[O:16],water,298.15,16.930529888281725,-39.30376281631961
728,790,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]2[C:18]#[N:19],water,298.15,28.01712817830188,-41.596642972982366
4888,5572,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,11.117152350444226,-30.48895634390329
2214,2455,[CH3:13][O:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[C:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:26]([C:27]([CH3:28])=[O:29])([C:30]([CH3:31])=[O:32])[N:24]([CH3:25])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,43.70146922656155,2.688327519394917
4572,5217,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,40.46446979803202,-12.210944078893908
2714,3014,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([NH+:21]=[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35](=[O:36])[O:37][CH3:38].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[NH:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:35](=[O:36])[O:37][CH3:38],water,298.15,21.363431488217863,-32.970083653264524
3658,4178,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:17]([C:18]#[N:19])[NH:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,23.88354577497285,-7.696776599980772
3513,4005,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([CH3:16])=[O+:17][O-:18]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([CH3:16])[O:17][O:18]2,water,298.15,12.911915560790904,-16.78837124292187
4036,4621,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[nH+:16][c-:17]([CH3:18])[c:19](=[O:20])[o:21]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[NH:16][C:17]2([CH3:18])[C:19](=[O:20])[O:21]1,water,298.15,25.750214765227785,-5.48217913085721
2240,2485,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[CH:25]=[N+:26]([CH3:27])[N-:28][C:29]([CH3:30])=[O:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[CH:25]([C:23]([O:22][CH3:21])=[O:24])[N:26]([CH3:27])[N:28]2[C:29]([CH3:30])=[O:31],water,298.15,11.62225827063082,-45.19016907892961
